US06927228B2
(c) 5-{3′-[(Methylpyrid-2-ylamino)methyl]-biphenyl-4-ylmethylene}thiazolidine-2,4-dione
In a manner similar to that of Example 1(f), by reacting 610 mg (1.85 mmol) of 3′-[(methylpyrid-2-ylamino)methyl]biphenyl-4-carbaldehyde with 216 mg (1.85 mmol) of 2,4-thiazolidine dione, 640 mg (81%) of expected product are obtained.

reactant | 3′-[(methylpyrid-2-ylamino)methyl]biphenyl-4-carbaldehyde | 1.85 mmol, 610 mg | CN(C1=NC=CC=C1)CC=1C=C(C=CC1)C1=CC=C(C=C1)C=O | C20H18N2O
reactant | 2,4-thiazolidine dione | 1.85 mmol, 216 mg | S1C(NC(C1)=O)=O | C3H3NO2S
product | 5-{3′-[(Methylpyrid-2-ylamino)methyl]-biphenyl-4-ylmethylene}thiazolidine-2,4-dione | 640 mg, 81% | CN(C1=NC=CC=C1)CC=1C=C(C=CC1)C1=CC=C(C=C1)C=C1C(NC(S1)=O)=O | C23H19N3O2S
